US08895547B2
5-(3-Bromophenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide
A suspension of 1.10 g of 2-(3-bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide in 10 ml of tetramethoxymethane was admixed with 2 ml of acetic acid and stirred at 100° C. for 5 hours. After the removal of the solvent under reduced pressure, the crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (0.61 g) with a molecular weight of 362.2 g/mol (C13H16BrNO4S).

reactant | 2-(3-bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide | 1.10 g | BrC=1C=C(C=CC1)C(C)(C(C)(C)O)S(=O)(=O)N | C11H16BrNO3S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | tetramethoxymethane | 10 ml | COC(OC)(OC)OC | C5H12O4
product | 5-(3-Bromophenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 0.61 g | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)OC)(=O)=O)C | C13H16BrNO4S
